US09034900B2
Step 1: 2-methyl-5-methylsulfonyl-2,3-dihydro-1-benzofuran
A mixture of 5-bromo-2-methyl-2,3-dihydro-1-benzofuran (1.0 g, 4.72 mmol), CH3SO2Na (730 mg, 7.08 mmol), L-proline (110 mg, 0.94 mmol), K2CO3 (120 mg, 0.94 mmol) and CuI (89 mg, 0.47 mmol) in DMSO (10 mL) was irradiated at 140° C. for 2 h under microwave. The mixture was extracted with EtOAc (2×30 mL). The combined organic layers were washed with brine (30 mL), dried over Na2SO4, filtered and concentrated to give the crude product that was purified by column chromatography on silica gel (PE/EA=2/1) to give the title compound (500 mg, 50%). 1H NMR (CDCl3, 400 MHz) δ 7.71-7.70 (m, 2H), 6.86-6.82 (m, 1H), 5.08-5.03 (m, 1H), 3.41-3.35 (m, 1H), 3.02 (s, 3H), 2.89-2.83 (m, 1H), 1.56 (d, J=6.4 Hz, 3H).

reactant | 5-bromo-2-methyl-2,3-dihydro-1-benzofuran | 4.72 mmol, 1.0 g | BrC=1C=CC2=C(CC(O2)C)C1 | C9H9BrO
reactant | CH3SO2Na | 7.08 mmol, 730 mg | CS(=O)O[Na]
reactant | L-proline | 0.94 mmol, 110 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K2CO3 | 0.94 mmol, 120 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.47 mmol, 89 mg | [Cu]I
product | 2-methyl-5-methylsulfonyl-2,3-dihydro-1-benzofuran | 500 mg, 50% | CC1OC2=C(C1)C=C(C=C2)S(=O)(=O)C | C10H12O3S
